US03936447
2,6-Dicyano-4-nitro-phenol, used in Example 12, was prepared according to generally known processes: 2,6-dicyano-4-nitro-aniline is converted by a Sandmeyer reaction into 2,6-dicyano-4-nitro-chlorobenzene of melting point 218°-219.5°C, reacted with methanol/sodium hydroxide to give 2,6-dicyano-4-nitro-anisole of melting point 144°-148°C, and the latter subsequently split with sodium iodide in dimethylformamide to give 2,6-dicyano-4-nitro-phenol of melting point 228°-231°C. The last two stages correspond to a process indicated in Belgian Pat. No. 764,117.

reactant | 2,6-Dicyano-4-nitro-phenol | C(#N)C1=C(C(=CC(=C1)[N+](=O)[O-])C#N)O | C8H3N3O3
reactant | 2,6-dicyano-4-nitro-aniline | C(#N)C1=C(N)C(=CC(=C1)[N+](=O)[O-])C#N | C8H4N4O2
reactant | 2,6-dicyano-4-nitro-chlorobenzene | C(#N)C1=C(C(=CC(=C1)[N+](=O)[O-])C#N)Cl | C8H2ClN3O2
reactant | methanol sodium hydroxide | CO.[OH-].[Na+]
product | 2,6-dicyano-4-nitro-anisole | C(#N)C1=C(C(=CC(=C1)[N+](=O)[O-])C#N)OC | C9H5N3O3
